US06355799B1
Preparation of 3-{4-chloro-2-[2-chloro-2-(ethoxycarbonyl)ethyl]-6-fluoro-3-methoxyphenyl}-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compounds no. 14-4 and 14-5)
A solution of 3-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)pyrimidinedione (0.94 g, 2.56 mmol) in acetonitrile (3 ml) was slowly added to an acetonitrile (9 ml) solution of ethyl acrylate (6 ml), tert-butyl nitrite (0.41 g, 3.97 mmol), and copper (II) chloride (0.42 g, 3.12 mmol) at −20° C. After stirred for 16 hr (−20° C. to room temperature), the mixture was poured into cold 5% hydrochloric acid (30 ml) and extracted with ethyl acetate (20 ml ×3), the organic phase was washed with cold 5% NaHCO3 and brine, dried over Na2SO4. Column chromatography was used for purification (silica gel, hexane/ether=9/1) which also isolated two isomers. Yield: isomer-1 (eluted earlier), 0.23 g, 0.47 mmol; isomer-2 (eluted later), 0.14 g, 0.29 mmol.

reactant | 3-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)pyrimidinedione | 2.56 mmol, 0.94 g | NC1=C(C(=CC(=C1OC)Cl)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H10ClF4N3O3
reactant | ethyl acrylate | 6 ml | C(C=C)(=O)OCC | C5H8O2
reactant | tert-butyl nitrite | 3.97 mmol, 0.41 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
catalyst | copper (II) chloride | 3.12 mmol, 0.42 g | [Cu](Cl)Cl
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
product | 3-{4-chloro-2-[2-chloro-2-(ethoxycarbonyl)ethyl]-6-fluoro-3-methoxyphenyl}-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)CC(C(=O)OCC)Cl)OC | C18H16Cl2F4N2O5
